** sch_path: /work/designs/g1-guardian/blocks/g1_t2f/xschem/g1_ref_sensor.sch
.subckt g1_ref_sensor vdd vdd12 vss r4 en mode vref iptat fout vbe dvbe
*.iopin vdd
*.iopin vdd12
*.iopin vss
*.ipin r4
*.ipin en
*.ipin mode
*.opin vref
*.opin iptat
*.opin fout
*.opin vbe
*.opin dvbe
xbgr vdd vss r4 vref iptat pbias pcasc vbe dvbe g1_bgr
xt2f vdd vdd12 vss pbias pcasc vref en mode fout g1_t2f
.ends

* expanding   symbol:  g1_bgr.sym # of pins=9
** sym_path: /work/designs/g1-guardian/blocks/g1_bgr/xschem/g1_bgr.sym
** sch_path: /work/designs/g1-guardian/blocks/g1_bgr/xschem/g1_bgr.sch
.subckt g1_bgr vdd vss r4 vref iptat pbias pcasc vbe dvbe
*.iopin vdd
*.iopin vss
*.ipin r4
*.opin vref
*.opin iptat
*.opin pbias
*.opin pcasc
*.opin vbe
*.opin dvbe
XMP1 d1 pbias vdd vdd sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XMC1 n1 pcasc d1 d1 sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XMP2 d2 pbias vdd vdd sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XMC2 pbias pcasc d2 d2 sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XRB pbias pcasc sub! rppd w=1u l=500u m=1 b=0 mm_ok=1
XMNC1 n1 vb2 vbe vss sg13_hv_nmos w=20u l=1u ng=1 m=1 mm_ok=1
XMNC2 pcasc vb2 c2 vss sg13_hv_nmos w=20u l=1u ng=1 m=1 mm_ok=1
XMP5 d5 pbias vdd vdd sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XMC5 vb2 pcasc d5 d5 sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XRX vb2 vd1 sub! rppd w=1u l=192u m=1 b=0 mm_ok=1
XQD1 vd1 vd1 vd2 vss npn13G2 Nx=1 mm_ok=1
XQD2 vd2 vd2 vss vss npn13G2 Nx=1 mm_ok=1
XQ1 vbe vbe vss vss npn13G2 Nx=1 mm_ok=1
XQ1B vbe b1b vss vss npn13G2 Nx=1 mm_ok=1
XQ2A c2 vbe dvbe vss npn13G2 Nx=1 mm_ok=1
XQ2B c2 vbe dvbe vss npn13G2 Nx=1 mm_ok=1
XQ2C c2 vbe dvbe vss npn13G2 Nx=1 mm_ok=1
XQ2D c2 vbe dvbe vss npn13G2 Nx=1 mm_ok=1
XQ2E c2 vbe dvbe vss npn13G2 Nx=1 mm_ok=1
XQ2F c2 vbe dvbe vss npn13G2 Nx=1 mm_ok=1
XQ2G c2 vbe dvbe vss npn13G2 Nx=1 mm_ok=1
XQ2H c2 vbe dvbe vss npn13G2 Nx=1 mm_ok=1
XR1 dvbe vss sub! rppd w=1u l=51.5u m=1 b=0 mm_ok=1
XMP3 d3 pbias vdd vdd sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XMC3 vref pcasc d3 d3 sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XR2 vref vbe3 sub! rppd w=1u l=315u m=1 b=0 mm_ok=1
XQ3 vbe3 vbe3 vss vss npn13G2 Nx=1 mm_ok=1
XMP4 d4 pbias vdd vdd sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XMC4 iptat pcasc d4 d4 sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XMPS det pbias vdd vdd sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XRDET det vss sub! rhigh w=0.5u l=735u m=1 b=0 mm_ok=1
XMNI kick det vss vss sg13_hv_nmos w=1u l=0.5u ng=1 m=1 mm_ok=1
XMPI kick det vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XMKFB pbias kick vss vss sg13_hv_nmos w=1u l=4u ng=1 m=1 mm_ok=1
XMSW1 vbe r4 b1b vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XMSW2 b1b r4n vss vss sg13_hv_nmos w=1u l=0.5u ng=1 m=1 mm_ok=1
XMNI2 r4n r4 vss vss sg13_hv_nmos w=1u l=0.5u ng=1 m=1 mm_ok=1
XMPI2 r4n r4 vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  g1_t2f.sym # of pins=9
** sym_path: /work/designs/g1-guardian/blocks/g1_t2f/xschem/g1_t2f.sym
** sch_path: /work/designs/g1-guardian/blocks/g1_t2f/xschem/g1_t2f.sch
.subckt g1_t2f vdd vdd12 vss pbias pcasc vref en mode fout
*.iopin vdd
*.iopin vdd12
*.iopin vss
*.ipin pbias
*.ipin pcasc
*.ipin vref
*.ipin en
*.ipin mode
*.opin fout
XMPO do pbias vdd vdd sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XMCO isrc pcasc do do sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XMPR dr pbias vdd vdd sg13_hv_pmos w=10u l=4u ng=1 m=2 mm_ok=1
XMCR vr pcasc dr dr sg13_hv_pmos w=10u l=4u ng=1 m=2 mm_ok=1
XRREF1 vr vr_1 sub! rppd w=0.5u l=24.5u m=1 b=0 mm_ok=1
XRREF2 vr_1 vr_2 sub! rppd w=0.5u l=24.5u m=1 b=0 mm_ok=1
XRREF3 vr_2 vr_3 sub! rppd w=0.5u l=24.5u m=1 b=0 mm_ok=1
XRREF4 vr_3 vr_4 sub! rppd w=0.5u l=24.5u m=1 b=0 mm_ok=1
XRREF5 vr_4 vr_5 sub! rppd w=0.5u l=24.5u m=1 b=0 mm_ok=1
XRREF6 vr_5 vr_6 sub! rppd w=0.5u l=24.5u m=1 b=0 mm_ok=1
XRREF7 vr_6 vr_7 sub! rppd w=0.5u l=24.5u m=1 b=0 mm_ok=1
XRREF8 vr_7 vr_8 sub! rppd w=0.5u l=24.5u m=1 b=0 mm_ok=1
XRREF9 vr_8 vr_9 sub! rppd w=0.5u l=24.5u m=1 b=0 mm_ok=1
XRREF10 vr_9 vss sub! rppd w=0.5u l=24.5u m=1 b=0 mm_ok=1
XMPB db pbias vdd vdd sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XMCB nbias pcasc db db sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XMNB nbias nbias vss vss sg13_hv_nmos w=10u l=2u ng=1 m=1 mm_ok=1
XMPF vcg pbias vdd vdd sg13_hv_pmos w=10u l=4u ng=1 m=1 mm_ok=1
XMSF vss vth vcg vcg sg13_hv_pmos w=2u l=2u ng=1 m=1 mm_ok=1
XMX1 vref moden vth vss sg13_hv_nmos w=4u l=0.5u ng=1 m=1 mm_ok=1
XMX2 vr mode vth vss sg13_hv_nmos w=4u l=0.5u ng=1 m=1 mm_ok=1
XIMN moden mode vss vss sg13_hv_nmos w=1u l=0.5u ng=1 m=1 mm_ok=1
XIMP moden mode vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XQA1 ca1 vth tail1 vss npn13G2 Nx=1 mm_ok=1
XQB1 cb1 cap1 tail1 vss npn13G2 Nx=1 mm_ok=1
XMCA1 oa1 vcg ca1 vss sg13_hv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
XMCB1 ob1 vcg cb1 vss sg13_hv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
XMBA1 ca1 nbias vss vss sg13_hv_nmos w=0.5u l=2u ng=1 m=1 mm_ok=1
XMBB1 cb1 nbias vss vss sg13_hv_nmos w=0.5u l=2u ng=1 m=1 mm_ok=1
XMLA1 oa1 oa1 vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=1 mm_ok=1
XMLB1 ob1 oa1 vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=1 mm_ok=1
XMT1 tail1 nbias vss vss sg13_hv_nmos w=20u l=2u ng=1 m=1 mm_ok=1
XIC1AN c1 ob1 vss vss sg13_hv_nmos w=1u l=0.5u ng=1 m=1 mm_ok=1
XIC1AP c1 ob1 vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XIC1BN sn c1 vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XIC1BP sn c1 vdd vdd sg13_hv_pmos w=4u l=0.5u ng=1 m=1 mm_ok=1
XQA2 ca2 vth tail2 vss npn13G2 Nx=1 mm_ok=1
XQB2 cb2 cap2 tail2 vss npn13G2 Nx=1 mm_ok=1
XMCA2 oa2 vcg ca2 vss sg13_hv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
XMCB2 ob2 vcg cb2 vss sg13_hv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
XMBA2 ca2 nbias vss vss sg13_hv_nmos w=0.5u l=2u ng=1 m=1 mm_ok=1
XMBB2 cb2 nbias vss vss sg13_hv_nmos w=0.5u l=2u ng=1 m=1 mm_ok=1
XMLA2 oa2 oa2 vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=1 mm_ok=1
XMLB2 ob2 oa2 vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=1 mm_ok=1
XMT2 tail2 nbias vss vss sg13_hv_nmos w=20u l=2u ng=1 m=1 mm_ok=1
XIC2AN c2 ob2 vss vss sg13_hv_nmos w=1u l=0.5u ng=1 m=1 mm_ok=1
XIC2AP c2 ob2 vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XIC2BN rn c2 vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XIC2BP rn c2 vdd vdd sg13_hv_pmos w=4u l=0.5u ng=1 m=1 mm_ok=1
XNQPA q sn vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XNQPB q qn vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XNQNA q sn NQ_i vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XNQNB NQ_i qn vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XNQNPA qn rn vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XNQNPB qn q vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XNQNPC qn en vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XNQNNA qn rn NQN_i vss sg13_hv_nmos w=3u l=0.5u ng=1 m=1 mm_ok=1
XNQNNB NQN_i q NQN_j vss sg13_hv_nmos w=3u l=0.5u ng=1 m=1 mm_ok=1
XNQNNC NQN_j en vss vss sg13_hv_nmos w=3u l=0.5u ng=1 m=1 mm_ok=1
XND1PA d1g qn vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XND1PB d1g en vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XND1NA d1g qn ND1_i vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XND1NB ND1_i en vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XND2PA d2g q vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XND2PB d2g en vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XND2NA d2g q ND2_i vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XND2NB ND2_i en vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XSW1 cap1 d1g isrc vdd sg13_hv_pmos w=4u l=0.5u ng=1 m=1 mm_ok=1
XD1 cap1 d1g vss vss sg13_hv_nmos w=4u l=0.5u ng=1 m=1 mm_ok=1
XSW2 cap2 d2g isrc vdd sg13_hv_pmos w=4u l=0.5u ng=1 m=1 mm_ok=1
XD2 cap2 d2g vss vss sg13_hv_nmos w=4u l=0.5u ng=1 m=1 mm_ok=1
XC1 cap1 vss cap_cmim w=28u l=28u m=1 mm_ok=1
XC2 cap2 vss cap_cmim w=28u l=28u m=1 mm_ok=1
XIAN a d2g vss vss sg13_hv_nmos w=1u l=0.5u ng=1 m=1 mm_ok=1
XIAP a d2g vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XMLSA lsa a vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XMLSB lsb d2g vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XMLPA lsa lsb vdd12 vdd12 sg13_lv_pmos w=0.5u l=0.3u ng=1 m=1 mm_ok=1
XMLPB lsb lsa vdd12 vdd12 sg13_lv_pmos w=0.5u l=0.3u ng=1 m=1 mm_ok=1
XIO1N fon lsb vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
XIO1P fon lsb vdd12 vdd12 sg13_lv_pmos w=1u l=0.13u ng=1 m=1 mm_ok=1
XIO2N fout fon vss vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1 mm_ok=1
XIO2P fout fon vdd12 vdd12 sg13_lv_pmos w=2u l=0.13u ng=1 m=1 mm_ok=1
.ends

